US06949553B2
KCN (1.26 g, 25.7 mmols), NaCN (2.78 mg, 42.7 mmols) and 18-crown-6 (793 mg, 3 mmols) were added to a CH3CN (60 ml) solution of the (5R)-5-(bromomethyl)-1-methylpyrrolidin-2-one (2.67 g, 13.9 mmols), and the mixture was heated for 44 hours under reflux. The inorganic matter was filtered off, and the filtrate was diluted with AcOEt (50 ml). The dilution was washed with a saturated aqueous solution (30 ml) of NaCl, and dried over MgSO4. The solvent was distilled off under reduced pressure, and then the residue was subjected to silica gel column chromatography (SiO2 100 g, MeOH—CHCl3 1:9 v/v) to obtain 2-((2R)-1-methyl-5-oxopyrrolidin-2-yl)ethanenitrile as a mixture (1.49 g) with impurities difficult to separate.

reactant | KCN | 25.7 mmols, 1.26 g | [C-]#N.[K+]
reactant | NaCN | 42.7 mmols, 2.78 mg | [C-]#N.[Na+]
reactant | 18-crown-6 | 3 mmols, 793 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | (5R)-5-(bromomethyl)-1-methylpyrrolidin-2-one | 13.9 mmols, 2.67 g | BrC[C@H]1CCC(N1C)=O | C6H10BrNO
solvent | CH3CN | 60 ml | CC#N | C2H3N
product | 2-((2R)-1-methyl-5-oxopyrrolidin-2-yl)ethanenitrile | CN1[C@H](CCC1=O)CC#N | C7H10N2O
